US08541588B2
3-cyano-N-(1,2,4-thiadiazol-5-yl)-4-[2-iodo-4-(trifluoromethoxy)phenoxy]benzenesulfonamide
To a suspension of 2-iodo-4-(trifluoromethoxy)phenol (Preparation 226, 600 mg, 1.97 mmol) and potassium carbonate (1125 mg, 8.14 mmol) in Dimethylsulfoxide (10 mL) was added 3-cyano-4-fluoro-N-[1,2,4]thiadiazol-5-yl-benzenesulfonamide (Preparation 65). The reaction was heated to 80° C. under N2 for 7 hours before the addition of ethyl acetate (20 mL) and 3M aqueous HCl solution (30 mL). The organic layer was collected, washed with brine (20 mL), dried over sodium sulphate and concentrated in vacuo. The residue was triturated in dichloromethane and filtered to afford 965 mg of the title compound.

reactant | 2-iodo-4-(trifluoromethoxy)phenol | 1.97 mmol, 600 mg | IC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4F3IO2
reactant | potassium carbonate | 8.14 mmol, 1125 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyano-4-fluoro-N-[1,2,4]thiadiazol-5-yl-benzenesulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)NC1=NC=NS1 | C9H5FN4O2S2
reactant | HCl | 3M, 30 mL | Cl | ClH
solvent | Dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-cyano-N-(1,2,4-thiadiazol-5-yl)-4-[2-iodo-4-(trifluoromethoxy)phenoxy]benzenesulfonamide | 965 mg | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)OC(F)(F)F)I)S(=O)(=O)NC1=NC=NS1 | C16H8F3IN4O4S2
